US04073894
Preparation of 2-Phenyl-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione
2-Phenyl-1,2,4-oxadiazolidin-3,5-dione (6.75 grams; 0.044 mole) dissolved in methanol (100 ml) and aqueous formaldehyde (5.67 ml of 37% conc.; 0.06 mole) were charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. The reaction mixture was heated at reflux, with stirring for a period of about 2 hours. After this time the reaction mixture was stripped of methanol and water to yield a solid residue. The residue was then dissolved in methylene chloride, and the resulting solution was washed with water. The washed solution was dried over anhydrous magnesium sulfate and stripped of solvent to yield the desired product 2-phenyl-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione as a solid residue.

reactant | 2-Phenyl-1,2,4-oxadiazolidin-3,5-dione | 0.044 mole, 6.75 grams | C1(=CC=CC=C1)N1OC(NC1=O)=O | C8H6N2O3
reactant | formaldehyde | 0.06 mole, 5.67 ml | C=O | CH2O
reactant | water | O | H2O
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-phenyl-4-hydroxymethyl-1,2,4-oxadiazolidin-3,5-dione | C1(=CC=CC=C1)N1OC(N(C1=O)CO)=O | C9H8N2O4
